US08865848B2
2-(Cyclohexylmethyl)-3,5,6,7-tetrahydro-s-indacen-1(2H)-one
In argon atmosphere, a 250 ml Berghof stainless steel autoclave with PTFE leaner was charged with 25.0 g (0.145 mol) of 3,5,6,7-tetrahydro-s-indacen-1(2H)-one, 20.0 g (0.178 mmol) of cyclohexanecarbaldehyde, 2.0 g (0.036 mol) of potassium hydroxide, 2.0 g of 10% Pd on charcoal and 150 ml of 96% ethanol. This reactor was flashed by hydrogen, and then hydrogen was fed to a pressure of 3 atm. This mixture was stirred for 3 h at room temperature. The resulting mixture was filtered through glass frit (G3), and the precipitate was additionally washed by 50 ml of ethanol. The filtrate was evaporated to dryness, and 500 ml was added to the residue. The crude product was extracted by 3×200 ml of dichloromethane. The combined organic extract was dried over Na2SO4 and then evaporated to dryness. The product was isolated by flash chromatography on silica gel 60 (40-63 um, eluent: dichloromethane). Yield 36.5 g (94%).

reactant | 3,5,6,7-tetrahydro-s-indacen-1(2H)-one | 0.145 mol, 25.0 g | C1(CCC2=CC=3CCCC3C=C12)=O | C12H12O
reactant | cyclohexanecarbaldehyde | 0.178 mmol, 20.0 g | C1(CCCCC1)C=O | C7H12O
reactant | potassium hydroxide | 0.036 mol, 2.0 g | [OH-].[K+]
reactant | hydrogen | [H][H] | H2
catalyst | Pd on charcoal | 2.0 g | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(Cyclohexylmethyl)-3,5,6,7-tetrahydro-s-indacen-1(2H)-one | C1(CCCCC1)CC1C(C2=CC=3CCCC3C=C2C1)=O | C19H24O
